### PR TITLE
feat(ErdosProblems): 15x ramsey theory formalizations

### LINKED ISSUE #306: Erdős Problem 77: Asymptotics of diagonal Ramsey number.
### What is the conjecture
A description, ideally with some reference to the informal version of the conjecture, for instance a to a website, paper or book.

https://www.erdosproblems.com/77

Find the value of $\lim_{k\to \infty}R(k)^{1/k}$.

### Prerequisites needed
Needs the definition of the Ramsey number $R(k)$, which is currently not in Mathlib, but will also be useful in other Erdős problems.

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### LINKED ISSUE #308: Erdős problem 78: Constructive proof for asymptotics of diagonal Ramsey number
### What is the conjecture
    
https://www.erdosproblems.com/78

  Give a constructive proof that $R(k)>C^k$ for some constant $C>1$.

### Prerequisites needed
 - not entirely sure how "constructive proof" is to be formalized here
 - Needs the definition of the Ramsey number $R(k)$, which is currently not in Mathlib, but will also be useful in other Erdős problems, like #306

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### LINKED ISSUE #321: Erdős Problem 87
### What is the conjecture
    
https://www.erdosproblems.com/87

  Let $\epsilon >0$. Is it true that, if $k$ is sufficiently large, then $R(G)>(1-\epsilon)^kR(k)$ for every graph $G$ with chromatic number $\chi(G)=k$? Even stronger, is there some $c>0$ such that, for all large $k$, $R(G)>cR(k)$ for every graph $G$ with chromatic number $\chi(G)=k$?

### Prerequisites needed
 - Ramsey number (also needed in other problems)
 - `chromaticNumber` is already in Mathlib.

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### LINKED ISSUE #357: Erdős Problem 112
### What is the conjecture
    
https://www.erdosproblems.com/112

  Let $k=k(n,m)$ be minimal such that any directed graph on $k$ vertices must contain either an independent set of size $n$ or a transitive tournament of size $m$. Determine $k(n,m)$.

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### LINKED ISSUE #368: Erdős Problem 129
### What is the conjecture
    
https://www.erdosproblems.com/129

  Let $R(n;k,r)$ be the smallest $N$ such that if the edges of $K_N$ are $r$-coloured then there is a set of $n$ vertices which does not contain a copy of $K_k$ in at least one of the $r$ colours. Prove that there is a constant $C=C(r)>1$ such that

$$R(n;3,r) < C^{\sqrt{n}}.$$

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### LINKED ISSUE #394: Erdős Problem 159
https://www.erdosproblems.com/159

  There exists some constant $c>0$ such that

$$R(C_4,K_n) \ll n^{2-c}.$$

Status: open

### Prerequisites needed
Definition $R$ is needed.

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### LINKED ISSUE #398: Erdős Problem 165: asymptotics of R(3,k)
### What is the conjecture
    
https://www.erdosproblems.com/165

  Give an asymptotic formula for $R(3,k)$.

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### LINKED ISSUE #414: Erdős Problem 190
### What is the conjecture
    
https://www.erdosproblems.com/190

  Let $H(k)$ be the smallest $N$ such that in any finite colouring of $\\{1,\ldots,N\\}$ (into any number of colours) there is always either a monochromatic $k$-term arithmetic progression or a rainbow arithmetic progression (i.e. all elements are different colours). Estimate $H(k)$. Is it true that
$$H(k)^{1/k}/k \to \infty$$
as $k\to\infty$?

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### LINKED ISSUE #752: Erdős Problem 483
### What is the conjecture
    
https://www.erdosproblems.com/483

  Let $f(k)$ be the minimal $N$ such that if $\\{1,\ldots,N\\}$ is $k$-coloured then there is a monochromatic solution to $a+b=c$. Estimate $f(k)$. In particular, is it true that $f(k) < c^k$ for some constant $c>0$?
  

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### LINKED ISSUE #774: Erdős Problem 531
### What is the conjecture
    
https://www.erdosproblems.com/531

  Let $F(k)$ be the minimal $N$ such that if we two-colour $\\{1,\ldots,N\\}$ there is a set $A$ of size $k$ such that all subset sums $\sum_{a\in S}a$ (for $\emptyset\neq S\subseteq A$) are monochromatic. Estimate $F(k)$.
  

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### LINKED ISSUE #1028: Erdős Problem 948
### What is the conjecture

https://www.erdosproblems.com/948

  Is there a function $f(n)$ and a $k$ such that in any $k$-colouring of the integers there exists a sequence $a_1<\cdots$ such that $a_n<f(n)$ for infinitely many $n$ and the set
$$\left\\{ \sum_{i\in S}a_i : \textrm{finite }S\right\\}$$
does not contain all colours?

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### LINKED ISSUE #1055: Erdős Problem 986
### What is the conjecture

https://www.erdosproblems.com/986

  For any fixed $k\geq 3$,
$$R(k,n) \gg \frac{n^{k-1}}{(\log n)^c}$$
for some constant $c=c(k)>0$.

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### LINKED ISSUE #1072: Erdős Problem 1014
### What is the conjecture

https://www.erdosproblems.com/1014

  Let $R(k,l)$ be the Ramsey number, so the minimal $n$ such that every graph on at least $n$ vertices contains either a $K_k$ or an independent set on $l$ vertices.

Prove, for fixed $k\geq 3$, that
$$\lim_{l\to \infty}\frac{R(k,l+1)}{R(k,l)}=1.$$

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### LINKED ISSUE #1081: Erdős Problem 1029
### What is the conjecture

https://www.erdosproblems.com/1029

  If $R(k)$ is the Ramsey number for $K_k$, the minimal $n$ such that every $2$-colouring of the edges of $K_n$ contains a monochromatic copy of $K_k$, then
$$\frac{R(k)}{k2^{k/2}}\to \infty.$$

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### LINKED ISSUE #1082: Erdős Problem 1030
### What is the conjecture

https://www.erdosproblems.com/1030

  If $R(k,l)$ is the Ramsey number then prove the existence of some $c>0$ such that
$$\lim_k \frac{R(k+1,k)}{R(k,k)}> 1+c.$$

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by ryantuck**
Followup to #3422. Contains 15x formalizations for open problems relating to [Ramsey theory.](https://en.wikipedia.org/wiki/Ramsey_theory)

Problems: 

- 77 - fixes #306 
- 78 - fixes #308 
- 87 - fixes #321 
- 112 - fixes #357 
- 129 - fixes #368 
- 159 - fixes #394 
- 165 - fixes #398 
- 190 - fixes #414 
- 483 - fixes #752 
- 531 - fixes #774 
- 948 - fixes #1028 
- 986 - fixes #1055 
- 1014 - fixes #1072 
- 1029 - fixes #1081 
- 1030 - fixes #1082

### CODE REVIEW

**Comment by mo271** [comment]
Thanks!

Some first remarks:
- It makes sense to group them like this!
- It would be good to move re-usable definitions to FormalConjecturesForMathlib and then use them in the files.
- https://github.com/google-deepmind/formal-conjectures/pull/2436 was just merged adding a definition of Ramsey number (including some notation). It would be good to move what in that file to appropriate files in FormalConjecturesForMathlib and use it from there.
 - Note that we already have some Ramsey related concepts, like `hypergraphRamsey` and `sizeRamsey` and `antiRamseyNum` (didn't look in detail if any of this can be reused in one of the 15 problems at hand.

**Comment by ryantuck** [comment]
@mo271 thanks for the feedback! 

As advised, I had Opus 4.6 do the following (fine-grain markdown session logs included to show the work):

1 - https://github.com/google-deepmind/formal-conjectures/pull/3588/commits/3c168fa5df85576af0c55307cdcbceac68d42b80 consolidated reused definitions among my erdos contributions ([session logs](https://github.com/google-deepmind/formal-conjectures/pull/3588/changes/6b288cd2344c3524aa1bb3b4b0f049f0b5ac2720))

> "from these 15 problems, i want to abstract out reused definitions and include them in the appropriate place within FormalConjecturesForMathlib. identify code reuse and refactor accordingly."

2 - https://github.com/google-deepmind/formal-conjectures/pull/3588/changes/6b288cd2344c3524aa1bb3b4b0f049f0b5ac2720 also consolidated wikipedia Ramsey code for reuse ([session logs](https://github.com/ryantuck/erdos-ai/blob/master/ramsey-pr-edits/ramsey-1.md#step-106-user-prompt))

> "FormalConjectures/Wikipedia/RamseyNumbers.lean was added recently. further consolidate common code usage, deferring to the implementation from the wikipedia lean file if a choice is needed."


3 - https://github.com/google-deepmind/formal-conjectures/pull/3588/changes/45fd907df4465295cfbd6ecc32b46427a9940add holistically assessed whether all Ramsey-related code was in an appropriate place or needed further consolidation, and clarified some references in the erdos file implementations ([session logs](https://github.com/ryantuck/erdos-ai/blob/master/ramsey-pr-edits/ramsey-2.md#step-1-user-prompt))

> "there are multiple ramsey-related files in FormalConjecturesForMathlib. Assess whether it makes sense to keep them separate or to consolidate them and then attend to the relevant files within the FormalConjectures dir."

File: FormalConjectures/ErdosProblems/1014.lean [hunk 1]
```diff
@@ -0,0 +1,53 @@
...
+where $R(k, l)$ is the Ramsey number.
+
+Formulated as: for every $\varepsilon > 0$, there exists $L_0$ such that for all $l \geq L_0$,
+$|R(k, l+1) / R(k, l) - 1| \leq \varepsilon$.
+-/
+@[category research open, AMS 5]
+theorem erdos_1014 (k : ℕ) (hk : k ≥ 3) :
+    ∀ ε : ℝ, ε > 0 →
+    ∃ L₀ : ℕ, ∀ l : ℕ, l ≥ L₀ →
+      |(graphRamseyNumber k (l + 1) : ℝ) / (graphRamseyNumber k l : ℝ) - 1| ≤ ε := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1014.lean]: Can you state this using `Filter.Tendsto`, `Filter.atTop` and `TopologicalSpace.nhds` instead?

File: FormalConjectures/ErdosProblems/1014.lean [hunk 2]
```diff
@@ -0,0 +1,53 @@
...
+
+For fixed $k \geq 3$,
+$$\lim_{l \to \infty} R(k, l+1) / R(k, l) = 1,$$
+where $R(k, l)$ is the Ramsey number.
+
+Formulated as: for every $\varepsilon > 0$, there exists $L_0$ such that for all $l \geq L_0$,
+$|R(k, l+1) / R(k, l) - 1| \leq \varepsilon$.
+-/
+@[category research open, AMS 5]
+theorem erdos_1014 (k : ℕ) (hk : k ≥ 3) :
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1014.lean:45]: Can you state the `k = 3` separately since it already is open?

File: FormalConjectures/ErdosProblems/1014.lean [hunk 3]
```diff
@@ -0,0 +1,53 @@
...
+# Erdős Problem 1014
+
+Erdős conjectured that for fixed $k \geq 3$, the ratio of consecutive Ramsey numbers
+$R(k, l+1) / R(k, l)$ tends to $1$ as $l \to \infty$.
+
+See also problems [544] and [1030].
+
+*Reference:* [erdosproblems.com/1014](https://www.erdosproblems.com/1014)
+
+[Er71] Erdős, P., _Topics in combinatorial analysis_, pp. 95-99, 1971.
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1014.lean]: The article seems to only be 19 pages long. Please check all references!

File: FormalConjectures/ErdosProblems/1029.lean [hunk 4]
```diff
@@ -0,0 +1,62 @@
...
+Formulated as: for every $C > 0$, there exists $K_0$ such that for all $k \geq K_0$,
+$R(k) \geq C \cdot k \cdot 2^{k/2}$.
+
+Here $R(k)$ is the diagonal Ramsey number, expressed as `diagRamseyNumber k`.
+-/
+@[category research open, AMS 5]
+theorem erdos_1029 :
+    ∀ C : ℝ, C > 0 →
+    ∃ K₀ : ℕ, ∀ k : ℕ, k ≥ K₀ →
+      (diagRamseyNumber k : ℝ) ≥ C * (k : ℝ) * (2 : ℝ) ^ ((k : ℝ) / 2) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1029.lean]: Again, please use `Filter` primitives here

File: FormalConjectures/ErdosProblems/1030.lean [hunk 5]
```diff
@@ -0,0 +1,82 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 1030
+
+*Reference:* [erdosproblems.com/1030](https://www.erdosproblems.com/1030)
+
+If $R(k,l)$ is the Ramsey number then prove the existence of some $c > 0$ such that
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1030.lean]: The only Ramsey number?? 😁

File: FormalConjectures/ErdosProblems/1030.lean [hunk 6]
```diff
@@ -0,0 +1,82 @@
...
+A problem of Erdős and Sós, who could not even prove whether
+$R(k+1,k) - R(k,k) > k^c$ for any $c > 1$.
+
+Burr, Erdős, Faudree, and Schelp [BEFS89] proved that
+$R(k+1,k) - R(k,k) \geq 2k - 5$.
+
+See also problems [544](https://www.erdosproblems.com/544) and
+[1014](https://www.erdosproblems.com/1014).
+
+OEIS: [A000791](https://oeis.org/A000791), [A059442](https://oeis.org/A059442).
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1030.lean:25]: What's the relevance of the first one?

**Review by YaelDillies — COMMENTED** [review]
Please extend my comments accordingly to the other problems

File: FormalConjectures/Wikipedia/RamseyNumbers.lean
Comment (mo271) [inline FormalConjectures/Wikipedia/RamseyNumbers.lean:58]: not really related to that pull request, but since it is nearby
`answer(sorry)  ↔ 43 < R(5, 5)` and
``answer(sorry)  ↔ R(5, 5) < 46`
as new research open statements, to capture the easiest open cases here.
(no worry if you don't add it, I will do it later if it  is not done here..)

File: FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Ramsey.lean [hunk 7]
```diff
@@ -0,0 +1,80 @@
...
+graph `G` on `N` vertices either contains a copy of `H` as a subgraph or its
+complement contains a copy of `H`. -/
+noncomputable def ramseyNumber {U : Type*} (H : SimpleGraph U) : ℕ :=
+  sInf {N : ℕ | ∀ (G : SimpleGraph (Fin N)),
+    H.IsContained G ∨ H.IsContained Gᶜ}
+
+/-- The classical diagonal Ramsey number `R(k) := R(K_k, K_k)`. -/
+noncomputable def diagRamseyNumber (k : ℕ) : ℕ :=
+  ramseyNumber (⊤ : SimpleGraph (Fin k))
+
```
Comment (mo271) [inline FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Ramsey.lean:79]:
```suggestion

/-- The two Ramsey number definitions agree on the diagonal -/
theorem graphRamseyNumber_self_eq_diagRamseyNumber (k : ℕ) :
    graphRamseyNumber k k = diagRamseyNumber k := by
  unfold graphRamseyNumber diagRamseyNumber ramseyNumber IsGraphRamsey
  congr 1; ext n; simp only [Set.mem_setOf_eq, not_and_or]
  exact forall_congr' fun G => or_congr
    (by rw [← not_free, ← cliqueFree_iff_top_free]; simp [Fintype.card_fin])
    (by rw [← not_free, ← cliqueFree_iff_top_free]; simp [Fintype.card_fin])

```
Let's add a test statement like this, which would also probably be useful in proofs

Comment (mo271) [inline FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Ramsey.lean:79]:
```suggestion

/-- The two Ramsey number definitions agree on the diagonal -/
theorem graphRamseyNumber_self_eq_diagRamseyNumber (k : ℕ) :
    graphRamseyNumber k k = diagRamseyNumber k := by
  unfold graphRamseyNumber diagRamseyNumber ramseyNumber IsGraphRamsey
  congr 1; ext n; simp only [Set.mem_setOf_eq, not_and_or]
  exact forall_congr' fun G => or_congr
    (by rw [← not_free, ← cliqueFree_iff_top_free]; simp [Fintype.card_fin])
    (by rw [← not_free, ← cliqueFree_iff_top_free]; simp [Fintype.card_fin])

```
Let's add a test statement like this, which would also probably be useful in proofs

File: FormalConjectures/ErdosProblems/1014.lean (hunk 2 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/1014.lean:45]: And also perhaps a statement of category `undergraduate` for the case `k=2`?
```
/--
The k=2 case: R(2, l+1)/R(2, l) → 1, since R(2, l) = l for all l.

This follows from the fact that for any graph G on n vertices, either G has an edge
(a 2-clique) or G = ⊥ and Gᶜ = ⊤ contains an l-clique (when l ≤ n).
-/
@[category undergraduate, AMS 5]
theorem erdos_1014_k_eq_2 :
    Tendsto (fun l : ℕ =>
      (graphRamseyNumber 2 (l + 1) : ℝ) / (graphRamseyNumber 2 l : ℝ))
      atTop (nhds 1) := by
  simp_rw [graphRamseyNumber_two]
  suffices h : Tendsto (fun l : ℕ => (1 : ℝ) / (l : ℝ)) atTop (nhds 0) by
    have := tendsto_const_nhds (x := (1 : ℝ)).add h
    simp only [add_zero] at this
    apply this.congr'
    filter_upwards [Ici_mem_atTop 1] with l (hl : 1 ≤ l)
    have : (l : ℝ) ≠ 0 := Nat.cast_ne_zero.mpr (by omega)
    push_cast; field_simp
  exact (tendsto_inv_atTop_zero (𝕜 := ℝ)).comp tendsto_natCast_atTop_atTop
    |>.congr fun n => (one_div (n : ℝ)).symm
```

This works together with `graphRamseyNumber_two` suggested below in Ramsey.lean

File: FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Ramsey.lean [hunk 8]
```diff
@@ -0,0 +1,80 @@
...
+end SimpleGraph
```
Comment (mo271) [inline FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Ramsey.lean:96]: and some more basic statements like this
```suggestion
/-- `IsGraphRamsey n 2 l` holds iff `l ≤ n`: any graph on `n ≥ l` vertices either has
an edge (a 2-clique) or is edgeless (so its complement ⊤ has an `l`-clique). -/
theorem isGraphRamsey_two_iff {n l : ℕ} :
    IsGraphRamsey n 2 l ↔ l ≤ n := by
  constructor
  · intro h
    by_contra hlt
    push_neg at hlt
    exact h ⊥ ⟨cliqueFree_bot le_rfl,
      by rw [compl_bot]; exact cliqueFree_of_card_lt (by simp [Fintype.card_fin]; omega)⟩
  · intro hle G
    rw [not_and_or]
    by_cases hG : G.CliqueFree 2
    · right; rw [cliqueFree_two.mp hG, compl_bot]
      intro hcf
      have : ¬ (⊤ : SimpleGraph (Fin n)).CliqueFree n := by
        have := not_cliqueFree_card_of_top_embedding (α := Fin n) (RelEmbedding.refl _)
        simpa [Fintype.card_fin] using this
      exact this (hcf.mono hle)
    · exact Or.inl hG

/-- `R(2, l) = l` for all `l`. -/
theorem graphRamseyNumber_two (l : ℕ) : graphRamseyNumber 2 l = l := by
  apply le_antisymm
  · exact Nat.sInf_le (isGraphRamsey_two_iff.mpr le_rfl)
  · exact le_csInf ⟨l, isGraphRamsey_two_iff.mpr le_rfl⟩
      fun n hn => isGraphRamsey_two_iff.mp hn

end SimpleGraph
```

File: FormalConjectures/ErdosProblems/1014.lean [hunk 9]
```diff
@@ -0,0 +1,52 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 1014
+
+Erdős conjectured that for fixed $k \geq 3$, the ratio of consecutive Ramsey numbers
+$R(k, l+1) / R(k, l)$ tends to $1$ as $l \to \infty$.
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1014.lean]:
```suggestion

```
No need to repeat the docstring here: we have it already at the main theorem!

File: FormalConjectures/ErdosProblems/1030.lean [hunk 10]
```diff
@@ -0,0 +1,83 @@
...
+If $R(k,l)$ is the Ramsey number then prove the existence of some $c > 0$ such that
+$$
+  \lim_{k \to \infty} \frac{R(k+1, k)}{R(k, k)} > 1 + c.
+$$
+
+A problem of Erdős and Sós, who could not even prove whether
+$R(k+1,k) - R(k,k) > k^c$ for any $c > 1$.
+
+Burr, Erdős, Faudree, and Schelp [BEFS89] proved that
+$R(k+1,k) - R(k,k) \geq 2k - 5$.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1030.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/1029.lean [hunk 11]
```diff
@@ -0,0 +1,59 @@
...
+
+If $R(k)$ is the diagonal Ramsey number for $K_k$, the minimal $n$ such that every
+2-colouring of the edges of $K_n$ contains a monochromatic copy of $K_k$, then
+$$
+  R(k) / (k \cdot 2^{k/2}) \to \infty.
+$$
+
+Erdős and Szekeres [ErSz35] proved $k \cdot 2^{k/2} \ll R(k) \leq \binom{2k-1}{k-1}$.
+The probabilistic method gives $R(k) \geq (1+o(1)) \cdot \frac{1}{\sqrt{2}\, e} \cdot k \cdot 2^{k/2}$,
+improved by Spencer [Sp75] to $R(k) \geq (1+o(1)) \cdot \frac{\sqrt{2}}{e} \cdot k \cdot 2^{k/2}$.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1029.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/1029.lean [hunk 12]
```diff
@@ -0,0 +1,59 @@
...
+
+Here $R(k)$ is the diagonal Ramsey number, expressed as `diagRamseyNumber k`.
+-/
+@[category research open, AMS 5]
+theorem erdos_1029 :
+    Tendsto (fun k : ℕ =>
+      (diagRamseyNumber k : ℝ) / ((k : ℝ) * (2 : ℝ) ^ ((k : ℝ) / 2)))
+      atTop atTop := by
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1029.lean:49]: Let's add a `-- TODO` for the missing variants. Here and in the other problems if not all variants from the additional text are provided!

File: FormalConjectures/ErdosProblems/1030.lean [hunk 13]
```diff
@@ -0,0 +1,83 @@
...
+
+/--
+Weaker variant of Erdős Problem 1030 [Er93, p. 339]:
+
+There exists $c > 1$ such that $R(k+1,k) - R(k,k) > k^c$ for all sufficiently large $k$.
+
+Erdős and Sós could not even prove this weaker statement.
+-/
+@[category research open, AMS 5]
+theorem erdos_1030_weak :
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1030.lean]:
```suggestion
theorem erdos_1030.variants.weak :
```

File: FormalConjectures/ErdosProblems/1030.lean [hunk 14]
```diff
@@ -0,0 +1,83 @@
...
+/--
+Erdős Problem 1030 [Er93, p. 339]:
+
+There exists $c > 0$ such that
+$$
+  \lim_{k \to \infty} \frac{R(k+1, k)}{R(k, k)} > 1 + c.
+$$
+
+Formulated as: there exists $c > 0$ such that eventually (for all sufficiently large $k$),
+$R(k+1, k) / R(k, k) \geq 1 + c$.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1030.lean]: That is not quite the same thing as on the website, is it? 
It might be that it doesn't converge to a limit but still is eventually larger than `1 + c`?
Perhaps add both versions?

File: FormalConjectures/ErdosProblems/1030.lean [hunk 15]
```diff
@@ -0,0 +1,83 @@
...
+-/
+@[category research open, AMS 5]
+theorem erdos_1030 :
+    ∃ c : ℝ, c > 0 ∧
+    ∀ᶠ k : ℕ in atTop,
+      (graphRamseyNumber (k + 1) k : ℝ) / (graphRamseyNumber k k : ℝ) ≥ 1 + c := by
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1030.lean:70]: let's also add "It is trivial that $R(k+1,k)-R(k,k)\geq k-2$." Perhaps eve with proof? Fine to have it without proof as well

File: FormalConjectures/ErdosProblems/112.lean [hunk 16]
```diff
@@ -0,0 +1,154 @@
...
+
+namespace Erdos112
+
+/-- An oriented graph on vertex type $V$: an irreflexive, antisymmetric binary relation
+representing directed edges ($\mathrm{adj}(u, v)$ means there is a directed edge from $u$ to $v$).
+Each pair of distinct vertices has at most one directed edge between them. -/
+structure Digraph (V : Type*) where
+  adj : V → V → Prop
+  loopless : ∀ v, ¬ adj v v
+  antisymm : ∀ u v, adj u v → ¬ adj v u
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/112.lean]: Don't redefine Digraph, but use what is in mathlib about this!

File: FormalConjectures/ErdosProblems/112.lean [hunk 17]
```diff
@@ -0,0 +1,154 @@
...
+    ∀ i j : Fin S.card, G.adj (f i : V) (f j : V) ↔ i < j
+
+/-- The directed Ramsey number $k(n,m)$: the minimal $k$ such that every directed graph
+on $k$ vertices contains either an independent set of size $n$ or a transitive
+tournament of size $m$. -/
+noncomputable def dirRamseyNum (n m : ℕ) : ℕ :=
+  sInf {k : ℕ | ∀ (V : Type) [Fintype V], Fintype.card V = k →
+    ∀ G : Digraph V,
+      (∃ S : Finset V, S.card = n ∧ G.IsIndepSet S) ∨
+      (∃ S : Finset V, S.card = m ∧ G.IsTransTournament S)}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/112.lean]: should move to ForMathlib and should be more aligned with the other Ramsey defintion (and standard `Digraph` from Mathlib.

File: FormalConjectures/ErdosProblems/112.lean [hunk 18]
```diff
@@ -0,0 +1,154 @@
...
+@[category research solved, AMS 5]
+theorem erdos_112.variants.larson_mitchell :
+    ∀ n : ℕ, 2 ≤ n →
+      dirRamseyNum n 3 ≤ n ^ 2 := by
+  sorry
+
+/-- The classical 2-color graph Ramsey number $R(n, m)$: the minimal $k$ such that every
+2-coloring of the edges of $K_k$ contains either a red clique of size $n$ or a blue clique
+of size $m$. -/
+noncomputable def graphRamseyNum (n m : ℕ) : ℕ :=
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/112.lean]: The definition `∀ (c : Fin k → Fin k → Bool)` quantifies over all functions c, including non-symmetric ones (where `c u v ≠ c v u`). But edge colorings of complete graphs should be symmetric?
So that meas it is potentially smaller?

File: FormalConjectures/ErdosProblems/112.lean [hunk 19]
```diff
@@ -0,0 +1,154 @@
...
+      (∃ S : Finset V, S.card = m ∧ G.IsTransTournament S)}
+
+/--
+Erdős Problem 112: Determine the directed Ramsey number $k(n,m)$.
+The exact value is still open.
+-/
+@[category research open, AMS 5]
+theorem erdos_112 :
+    ∀ n m : ℕ, 2 ≤ n → 2 ≤ m →
+      dirRamseyNum n m = answer(sorry) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/112.lean]:
```suggestion
      dirRamseyNum n m = (answer(sorry) : ℕ → ℕ → ℕ) n m := by

```
Otherwise the answer sorry value will just be a global number independent of n and m!

Comment (mo271) [inline FormalConjectures/ErdosProblems/112.lean]: Please also add the smallest open cases here!

File: FormalConjectures/ErdosProblems/112.lean [hunk 20]
```diff
@@ -0,0 +1,154 @@
...
+
+/--
+Ramsey number sandwich (Hunter): $R(n,m) \leq k(n,m) \leq R(n,m,m)$, where $R$ is the
+classical graph Ramsey number and $R(n,m,m)$ is the 3-color Ramsey number. The lower bound
+holds because any undirected graph can be oriented, and the upper bound holds because the
+three options for each pair of vertices (no edge, forward edge, backward edge) correspond
+to a 3-coloring.
+-/
+@[category research solved, AMS 5]
+theorem erdos_112.variants.ramsey_sandwich :
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/112.lean:91]: There is something wrong here: AlphaProof could disprove the statment!

```lean
@[category research solved, AMS 5]
theorem erdos_112.variants.ramsey_sandwich :
    ¬ (∀ n m : ℕ, 2 ≤ n → 2 ≤ m →
      graphRamseyNum n m ≤ dirRamseyNum n m ∧
      dirRamseyNum n m ≤ graphRamseyNum3 n m m) := by
  -- AlphaProof found a disproof
  push_neg
  delta graphRamseyNum3 graphRamseyNum dirRamseyNum
  use 2,2
  rw[{s |_}.eq_empty_of_subset_empty]
  · use refl _,refl _, fun and=>?_
    rw[{s |_}.eq_empty_of_subset_empty]
    · rewrite[Nat.sInf_empty,Nat.lt_iff_add_one_le,le_csInf_iff]
      · exact (fun a s=>a.pos_of_ne_zero (by cases. with cases(s) PEmpty rfl (by repeat use default) with use (by valid:).elim (·.eq_empty_of_isEmpty▸nofun)))
      · bound
      use 3,fun _ _ _ a=>?_
      rcases a
      delta Erdos112.Digraph.IsTransTournament Erdos112.Digraph.IsIndepSet
      by_cases h:∃ R M,R≠M∧‹∀ R M,Prop› R M
      · simp_rw [ Fintype.bijective_iff_injective_and_card]
        let⟨x,y,z,w⟩ :=h
        classical use Or.inr ⟨ _, Finset.card_pair z, (if ·.1=0 then⟨x,by bound⟩else⟨y,by bound⟩),?_⟩
        simp_all[Function.Injective,z.symm,Fin.forall_iff]
        use fun and Y A B=>match A,and with|0,0|0,1|1,0|1,1=>by grind,fun A B R L=>by match A,R with|0,0|0,1|1,0|1,1=>grind
      · exact (.inl (( Finset.exists_subset_card_eq (le_of_lt (Eq.ge (by assumption)))).imp fun and=>.symm ∘.imp_left fun and _ _ _ _ A=>h ⟨ _, _, fun and=>by simp_all only, A⟩))
    · use fun and f=>match f (if.<. then(0)else 1) with|.inl ⟨x,A, B⟩|.inr<|.inl ⟨x,A, B⟩|.inr<|.inr ⟨x,A, B⟩=>(Finset.one_lt_card.1 A.ge).elim (by grind)
  · use fun and f=>by cases f (.<.) with use (by valid:).elim fun and x =>( Finset.one_lt_card.1 x.1.ge).elim fun and⟨i,A, B, M⟩=>absurd (x.2 and i A B) (absurd (x.2 A B and i) ∘by grind)
```

The bug could be about the missing symmetry condition flagged above?!

File: FormalConjectures/ErdosProblems/129.lean [hunk 21]
```diff
@@ -0,0 +1,109 @@
...
+    ∃ x ∈ T, ∃ y ∈ T, x ≠ y ∧ χ x y ≠ c
+
+/-- The generalized Ramsey number $R(n; k, r)$: the smallest $N$ such that for
+every symmetric $r$-coloring of the edges of $K_N$ (i.e., $\chi\, x\, y = \chi\, y\, x$),
+there exists a set of $n$ vertices and a color $c$ such that the set is
+$K_k$-free in color $c$. -/
+noncomputable def multicolorRamseyNum (n k r : ℕ) : ℕ :=
+  sInf {N : ℕ | ∀ (χ : EdgeColoring N r), (∀ x y, χ x y = χ y x) →
+    ∃ (S : Finset (Fin N)) (c : Fin r),
+      S.card = n ∧ IsMonoKkFree χ c k S}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/129.lean:54]: are those definition also needed in other Erdős problems? if so --> move to ForMathlib.

File: FormalConjectures/ErdosProblems/129.lean [hunk 22]
```diff
@@ -0,0 +1,109 @@
...
+  sorry
+
+/--
+Generalized Erdős–Gyárfás conjecture [Er97b]: for all $r, k \geq 2$,
+there exist constants $C_1, C_2 > 1$ (depending only on $r$) such that
+$C_1^{n^{1/(k-1)}} < R(n; k, r) < C_2^{n^{1/(k-1)}}$.
+The status of this generalized conjecture is unclear given the issues with
+the $k = 3$ upper bound.
+-/
+@[category research open, AMS 5]
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/129.lean:93]: Isn't it that here the status is known to false, so the negation of the statment is `solved`? I don't quite know what make of it from the review comments

At least as written the statement doesn't make much sense, AlphaProof gives a simple disproof:

```lean
theorem erdos_129_general_bounds :
    ¬ (∀ r : ℕ, 2 ≤ r → ∀ k : ℕ, 2 ≤ k →
      ∃ C₁ C₂ : ℝ, 1 < C₁ ∧ 1 < C₂ ∧
        ∀ n : ℕ, C₁ ^ (n : ℝ) ^ ((1 : ℝ) / ((k : ℝ) - 1))
          < (multicolorRamseyNum n k r : ℝ)
        ∧ (multicolorRamseyNum n k r : ℝ)
          < C₂ ^ (n : ℝ) ^ ((1 : ℝ) / ((k : ℝ) - 1))) := by
  push_neg
  refine ⟨2,refl _,2,refl _,fun _ _ _ _=> ⟨0,.trans (by (norm_num)) ∘le_of_lt⟩⟩
```

File: FormalConjectures/ErdosProblems/129.lean [hunk 23]
```diff
@@ -0,0 +1,109 @@
...
+        ∀ n : ℕ, (multicolorRamseyNum n 3 r : ℝ) < C ^ Real.sqrt (n : ℝ) := by
+  sorry
+
+/--
+Lower bound proved by Erdős and Gyárfás [Er97b]: for every $r \geq 1$,
+there exists a constant $C = C(r) > 1$ such that $R(n; 3, r) > C^{\sqrt{n}}$
+for all positive integers $n$.
+-/
+@[category research solved, AMS 5]
+theorem erdos_129_lower_bound :
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/129.lean:79]: This claims the lower bound for all `n`, including `n=0,1,2`. For small `n, multicolorRamseyNum n 3 r` could be `0` (or very small), while `C^√n` with `C > 1` is at least ` 1`. This is likely trivially false for `n=0` since multicolorRamseyNum 0 3 r = 0 but C^0 = 1 > 0. Should perahps use `∀ᶠ n in atTop` or add `1 ≤ n` or something like that.
And checking with AlphaProof indeed gives a disproof: 

```lean
theorem erdos_129_lower_bound :
   ¬ (∀ r : ℕ, 1 ≤ r →
      ∃ C : ℝ, 1 < C ∧
        ∀ n : ℕ, C ^ Real.sqrt (n : ℝ) < (multicolorRamseyNum n 3 r : ℝ)) := by
  push_neg
  delta multicolorRamseyNum
  delta IsMonoKkFree EdgeColoring Real.sqrt
  exact ⟨1,refl _,fun A B=>⟨0,.trans (mod_cast csInf_le' fun and i=>⟨{},0,rfl, by aesop⟩) ( A.rpow_nonneg (one_pos.trans B).le _)⟩⟩

```

**Review by mo271 — COMMENTED** [review]
Partial review first 5/15.
Some issues are similar in each
 module docstring shouldn't repeat what is later mentioned in theorem docstrings and Reference should be organized with bullet points like is done in other files in this repo. 
Also let's always add a `--TODO` for the remaining variants in the additional material if not all of them are formalised here.

File: FormalConjectures/ErdosProblems/1030.lean (hunk 6 above)
Comment (ryantuck) [reply FormalConjectures/ErdosProblems/1030.lean:25]: https://www.erdosproblems.com/1030 lists these two sequences as relevant which is why it's listed here. 

It appears that [544](https://www.erdosproblems.com/544) is marked as relevant since it describes R(3,k), and that OEIS sequence is listed as the relevant one.

File: FormalConjectures/ErdosProblems/1030.lean (hunk 5 above)
Comment (ryantuck) [reply FormalConjectures/ErdosProblems/1030.lean]: Agree this is odd phrasing but is coming directly from the source website: https://www.erdosproblems.com/1030

I've submitted a comment there on the problem to suggest an edit:

> The way this problem is phrased could probably be improved ("the Ramsey number"?) and it appears the limit needs defining (is that k -> infinity?). I don't have access to the source but am working on contributing a formalization at https://github.com/google-deepmind/formal-conjectures/pull/3588 and this was raised as an issue :)

**Comment by YaelDillies** [comment]
Can you resolve the comments you have addressed?
